US06821974B2
1-hydrazinophthalazine HCL (395 mg; 2 mmoles) is dissolved in 2.5 ml of acetone and allowed to react for 1 hour. The solvent is evaporated and the slightly yellow material is dried in vacuo to yield 411 mg of 1-hydrazinophthalazine acetone hydrazone. (99% of theoretical yield). [British Journal of Pharmacology 61: 345-349 (1977)].

reactant | 1-hydrazinophthalazine HCL | 2 mmoles, 395 mg | Cl.N(N)C1=NN=CC2=CC=CC=C12
reactant | acetone | 2.5 ml | CC(=O)C | C3H6O
product | 1-hydrazinophthalazine acetone hydrazone | 411 mg | CC(C)=NN.N(N)C1=NN=CC2=CC=CC=C12 | InChI=1S/C8H8N4.C3H8N2/c9-11-8-7-4-2-1-3-6(7)5-10-12-8;1-3(2)5-4/h1-5H,9H2,(H,11,12);4H2,1-2H3
